* Z:\mnt\design.r\spice\examples\1966.asc
V1 +V 0 5
XU1 0 N002 0 -V OUT 0 +V LTC1966
V2 -V 0 -5
C1 OUT 0 1µ
L1 0 N001 20n
L2 0 N002 118m
R1 N002 0 10
I1 0 N001 SINE(0 {ARMS*sqrt(2)} 60)
.tran 3
.step param ARMS list 5 10 70
K1 L1 L2 1
* 70 A current measurement
* V(out) = 4m * ARMS
* AC Current 60 Hz
.lib LTC1966.lib
.backanno
.end
